Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[H:8].[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])=[C:7]=[C:9]([H:10])[H:11],3.0443111753400003
[C:7]#[C:8][C:9]([H:10])([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-5.2133870691
[H:1][O:2][C:3]([H:4])([C:5][C:6]([H:7])=[C:8]([H:9])[H:10])[O:11][H:12]>>[H:1][O:2][C:3](=[C:5]=[C:6]([H:7])[C:8]([H:9])[H:10])[O:11][H:12].[H:4],1.44465396212
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:11]([H:12])[H:13].[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:9][H:10],4.545218809880001
[H:1][C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-2.92411856
[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12].[O:1]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-8.07449870071
[C:7]([H:8])[H:9].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[H:9],-2.9810436265499995
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([O:4][H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.53158060528
[H:1][O:2]/[C:3](=[C:5]\[O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:4]>>[H:1][O:2][C@:3]([H:4])([C:5][O:6][C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],-2.50163058539
[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6]([H:7])=[C:8]/[C:10]([H:11])([H:12])[H:13].[H:9],4.792477459
[H:1][C:2]#[C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2]#[C:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[H:11].[H:7],5.06859105284
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6][C:7]([H:8])[H:9]>>[C:4]#[C:5][C:6][C:7]([H:8])[H:9].[O:1]=[C:2][H:3],3.72604794987
[C:1]#[C:2].[C:3]([H:4])#[C:5][O:6][C:7]([H:8])[H:9]>>[C:1]#[C:2]/[C:3]([H:4])=[C:5]/[O:6][C:7]([H:8])[H:9],-3.9644343848800014
[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1]/[C:2]([C:3][C:4]([H:5])([H:6])[H:7])=[C:8]\[C:10]([H:11])([H:12])[H:13].[H:9],4.9905742621
[H:3].[O:1]=[C:2]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11]>>[O:1][C@:2]([H:3])([O:4][H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-0.349489765758
[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][C:2][O:3][C:4][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:5],3.35268364476
[C:7][C:8]([H:9])([H:10])[O:11][H:12].[H:1][C:2]#[C:3][C:4]([H:5])[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[O:11][H:12],-2.99698881428
[H:10].[H:1]/[C:2](=[C:3](/[H:4])[C@@:5]([H:6])([C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14])[C:15]([H:16])([H:17])[H:18],-4.57662183386
[C:1]#[C:2][H:3].[C:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-3.30613096206
[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],-3.22551901911
[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][O:4][C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:3],3.85613955896
[H:1][C:2][O:3][C:4]([C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3]/[C:4](=[C:5](/[H:6])[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.63133091278
[H:1][C:2]/[C:3]([O:4][H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3](\[O:4][H:5])=[C:6](\[O:7][H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2],6.33974134441
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]#[C:9][H:10].[O:11][H:12]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8](=[C:9][H:10])[O:11][H:12],-3.02201430098
[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]>>[H:1][C:2]=[C:3]([O:4][H:5])[O:6][C:7]([H:8])([H:9])[H:10],-5.91926616835
[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11],-1.9489669726
[H:1][C:2]#[C:3][C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:2],7.724456637969999
[C:10]([H:11])([H:12])[H:13].[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[O:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]([H:7])[O:8][H:9])[C:10]([H:11])([H:12])[H:13],-1.0798293739899998
[H:1].[O:2]=[C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3][C:4]([O:5][H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.76443568473
[C:1]#[C:2][O:3][C:4][C:6]([H:7])([H:8])[O:9][H:10].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10],-4.86735340555
